US07495016B2
13.4 Preparation of 3-[4-(2-benzyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide according to General Procedure IV
3-[4-(2-Benzyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile (2 g) was dissolved in 30 mL EtOH. A solution of 25% NaOH (0.23 mL) was added followed by 2.3 mL H2O2 (30%). The mixture was heated to 45° C. for 5 h and cooled to r.t. After concentration the residue was dissolved in CH3Cl (100 mL), washed with NH4Cl, water, and brine, dried over MgSO4, and concentrated to give 1.83 g of crude product which was used in the next step without purification.

reactant | 3-[4-(2-Benzyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 2 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C25H22N2O3
reactant | NaOH | 0.23 mL | [OH-].[Na+]
reactant | H2O2 | 2.3 mL | OO | H2O2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 3-[4-(2-benzyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | 1.83 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C25H24N2O4
